US07495103B2
3-Nitro-phenylamine (27.6 g, 0.2 mol) was dissolved in a mixture of H2O (40 mL) and 37% HCl (40 mL). A solution of NaNO2 (13.8 g, 0.2 mol) in H2O (60 mL) was added at 0° C., followed by the addition of SnCl2.H2O (135.5 g, 0.6 mol) in 37% HCl (100 mL) at that temperature. After stirring at 0° C. for 0.5 h, the solid was isolated via filtration and washed with water to give (3-nitro-phenyl)-hydrazine hydrochloride salt (B-4-a) (27.6 g, 73%).

reactant | 3-Nitro-phenylamine | 0.2 mol, 27.6 g | [N+](=O)([O-])C=1C=C(C=CC1)N | C6H6N2O2
reactant | NaNO2 | 0.2 mol, 13.8 g | N(=O)[O-].[Na+]
reactant | SnCl2.H2O | 0.6 mol, 135.5 g | Cl[Sn]Cl.O
solvent | H2O | 40 mL | O | H2O
solvent | HCl | 40 mL | Cl | ClH
solvent | H2O | 60 mL | O | H2O
solvent | HCl | 100 mL | Cl | ClH
product | (3-nitro-phenyl)-hydrazine hydrochloride salt | 27.6 g, 73% | Cl.[N+](=O)([O-])C=1C=C(C=CC1)NN | InChI=1S/C6H7N3O2.ClH/c7-8-5-2-1-3-6(4-5)9(10)11;/h1-4,8H,7H2;1H
